* Phase D: BSIM3 CMOS inverter (NMOS1V8 + PMOS1V8) switching
* Stress: gate-cap conservation across a rail-to-rail transition,
* charge-storage in source/drain junctions, and Newton convergence
* at the high-dV/dt input edges.
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0

Vdd  vdd 0 1.8
Vin  in  0 PULSE(0 1.8 1n 100p 100p 5n 10n)
XN   out in 0 0  NMOS1V8 W=2u L=1u M=1
XP   vdd in out vdd PMOS1V8 W=4u L=1u M=1
Cload out 0 10f

.control
tran 50p 30n
echo TRAN_OK
quit
.endc
.end
